US07504412B2
3-Methyl-6-nitroimidazo[1,2-a]pyridine
Operations similar to Production Example 1-(2) were conducted using 2-bromopropionaldehyde and 2-amino-5-nitropyridine. The solid whereupon obtained was suspended in ethyl acetate, and washed with saturated aqueous sodium hydrogencarbonate solution to provide the title compound as yellow solid.

reactant | 2-bromopropionaldehyde | BrC(C=O)C | C3H5BrO
reactant | 2-amino-5-nitropyridine | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Methyl-6-nitroimidazo[1,2-a]pyridine | CC1=CN=C2N1C=C(C=C2)[N+](=O)[O-] | C8H7N3O2
